*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:20:14 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFSRXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFSRXL RN CK D Q SN QN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET RN 2.41955e-16
*|P (RN X 0 1.3000 1.0450)
*|I (Mmn22:g Mmn22 g X 0 1.2825 0.5875)
*|I (Mmp22:g Mmp22 g X 0 1.2825 1.3025)
*|S (RN:2 1.2550 0.9500)
C1 Mmp22:g VSS 3.88328e-17
C2 Mmn22:g VSS 3.58457e-17
C3 RN:2 VSS 8.4215e-17
C4 RN VSS 8.30613e-17
Rl1 RN:2 Mmn22:g 98.768700 $W=0.039
Rl2 Mmp22:g RN:2 81.461006 $W=0.039
Rk3 RN:2 RN 45.033741 $W=0.183
*
*|NET CK 1.87984e-16
*|P (CK X 0 6.3000 0.8550)
*|I (Mmn20:g Mmn20 g X 0 6.2625 0.5875)
*|I (Mmp20:g Mmp20 g X 0 6.2625 1.0325)
*|S (CK:2 6.2900 0.8150)
*|S (CK:4 6.2900 0.8150)
C5 Mmp20:g VSS 2.32735e-17
C6 Mmn20:g VSS 2.42698e-17
C7 CK:4 VSS 2.27187e-17
C8 CK:2 VSS 1.71363e-17
C9 CK VSS 1.00586e-16
Rl4 CK:2 Mmn20:g 46.845619 $W=0.039
Rl5 Mmp20:g CK:2 29.537928 $W=0.039
Rk6 CK:4 CK 0.024019 $W=0.1
Rk7 CK:2 CK:4 45.000000 $W=0.1
*
*|NET D 2.72088e-16
*|P (D X 0 5.7000 0.8550)
*|I (Mmn25:g Mmn25 g X 0 5.6225 0.3375)
*|I (Mmp25:g Mmp25 g X 0 5.6225 1.0375)
*|S (D:1 5.6900 0.5450)
*|S (D:2 5.6225 0.5450)
C10 Mmp25:g VSS 7.71813e-17
C11 Mmn25:g VSS 3.06128e-17
C12 D:2 VSS 3.51444e-17
C13 D:1 VSS 6.0753e-17
C14 D VSS 6.83961e-17
Rl8 D:1 D:2 47.483437 $W=0.114
Rl9 D:2 Mmn25:g 46.956516 $W=0.039
Rl10 D:2 Mmp25:g 143.110367 $W=0.039
Rk11 D:1 D 0.186029 $W=0.1
*
*|NET Q 1.75042e-16
*|P (Q X 0 0.9000 0.6650)
*|I (Mmn55:d Mmn55 d X 0 0.9800 0.5875)
*|I (Mmp55:d Mmp55 d X 0 0.9550 1.3025)
*|S (Q:3 0.9700 0.5750)
C15 Mmp55:d VSS 7.04086e-17
C16 Mmn55:d VSS 4.10824e-17
C17 Q VSS 6.35514e-17
Rk12 Q Q:3 0.045561 $W=0.105
Rk13 Mmn55:d Q:3 75.000000 $W=0.105
Rk14 Mmp55:d Q 62.432873 $W=0.08
*
*|NET SN 9.97827e-16
*|P (SN X 0 3.1000 0.6650)
*|I (Mmn50:g Mmn50 g X 0 2.0625 0.3975)
*|I (Mmn30:g Mmn30 g X 0 4.6325 0.5225)
*|I (Mmp50:g Mmp50 g X 0 2.0525 1.0075)
*|I (Mmp30:g Mmp30 g X 0 4.6325 1.0375)
*|S (SN:2 2.1000 0.7350)
*|S (SN:5 4.6325 0.8300)
*|S (SN:6 4.5450 0.8300)
C18 Mmp30:g VSS 4.03943e-17
C19 Mmp50:g VSS 5.03824e-17
C20 Mmn30:g VSS 5.08997e-17
C21 Mmn50:g VSS 3.99484e-17
C22 SN:5 VSS 1.75003e-17
C23 SN:2 VSS 2.04593e-16
C24 SN:6 VSS 2.81127e-16
C25 SN VSS 3.12982e-16
Rl15 SN:5 SN:6 50.910175 $W=0.094
Rl16 Mmn50:g SN:2 87.694366 $W=0.039
Rl17 SN:5 Mmn30:g 86.252586 $W=0.039
Rl18 SN:2 Mmp50:g 50.250862 $W=0.039
Rl19 Mmp30:g SN:5 34.329510 $W=0.039
Rk20 SN:6 SN 1.649363 $W=0.08
Rk21 SN SN:2 45.825665 $W=0.08
*
*|NET QN 7.87336e-17
*|P (QN X 0 0.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 0.2950 0.5875)
*|I (Mmp57:d Mmp57 d X 0 0.2950 1.0075)
*|S (QN:3 0.2850 0.6000)
C26 Mmp57:d VSS 2.07565e-17
C27 Mmn57:d VSS 3.54542e-17
C28 QN VSS 2.25228e-17
Rk22 QN:3 QN 0.088041 $W=0.13
Rk23 Mmn57:d QN:3 75.000000 $W=0.1
Rk24 Mmp57:d QN:3 62.224846 $W=0.1
*
*|NET qint 2.34273e-16
*|I (Mmn57:g Mmn57 g X 0 0.3875 0.5875)
*|I (Mmn56:d Mmn56 d X 0 0.7100 0.5875)
*|I (Mmp57:g Mmp57 g X 0 0.3875 1.0075)
*|I (Mmp56:d Mmp56 d X 0 0.7450 1.0075)
*|S (qint:1 0.4750 0.7650)
*|S (qint:2 0.3875 0.7650)
*|S (qint:5 0.7100 0.7750)
C29 Mmp56:d VSS 3.7528e-17
C30 Mmp57:g VSS 3.33676e-17
C31 Mmn56:d VSS 3.71773e-17
C32 Mmn57:g VSS 2.64903e-17
C33 qint:5 VSS 3.96373e-17
C34 qint:2 VSS 8.04017e-18
C35 qint:1 VSS 5.20323e-17
Rl25 qint:1 qint:2 50.914963 $W=0.094
Rl26 qint:2 Mmn57:g 36.252586 $W=0.039
Rl27 qint:2 Mmp57:g 47.791046 $W=0.039
Rk28 qint:1 qint:5 0.119424 $W=0.1
Rk29 qint:5 Mmn56:d 75.108788 $W=0.1
Rk30 qint:5 Mmp56:d 62.115955 $W=0.1
*
*|NET qbint 7.74924e-16
*|I (Mmn56:g Mmn56 g X 0 0.6175 0.5875)
*|I (Mmn55:g Mmn55 g X 0 1.0725 0.5875)
*|I (Mmn45:d Mmn45 d X 0 1.7625 0.3975)
*|I (Mmn52:g Mmn52 g X 0 2.3325 0.3975)
*|I (Mmp56:g Mmp56 g X 0 0.6525 1.0075)
*|I (Mmp55:g Mmp55 g X 0 1.0775 1.3025)
*|I (Mmp45:d Mmp45 d X 0 1.7850 1.0075)
*|I (Mmp52:g Mmp52 g X 0 2.2575 1.0075)
*|S (qbint:2 1.1050 0.7700)
*|S (qbint:4 0.6575 0.7575)
*|S (qbint:8 2.2950 0.5750)
*|S (qbint:10 1.7500 0.5750)
*|S (qbint:12 1.7500 0.4100)
C36 Mmp52:g VSS 8.16492e-17
C37 Mmp45:d VSS 5.46563e-17
C38 Mmp55:g VSS 5.02245e-17
C39 Mmp56:g VSS 3.09039e-17
C40 Mmn52:g VSS 3.02705e-17
C41 Mmn45:d VSS 8.09375e-17
C42 Mmn55:g VSS 2.20773e-17
C43 Mmn56:g VSS 2.13431e-17
C44 qbint:10 VSS 6.72192e-17
C45 qbint:4 VSS 3.56599e-17
C46 qbint:2 VSS 1.64309e-16
C47 qbint:8 VSS 1.35674e-16
Rl31 qbint:2 qbint:4 158.000931 $W=0.039
Rl32 qbint:4 Mmn56:g 42.719643 $W=0.039
Rl33 qbint:2 Mmn55:g 25.166473 $W=0.039
Rl34 Mmn52:g qbint:8 28.846153 $W=0.039
Rl35 qbint:4 Mmp56:g 49.520958 $W=0.039
Rl36 Mmp55:g qbint:2 147.806778 $W=0.039
Rl37 qbint:8 Mmp52:g 112.912086 $W=0.039
Rk38 qbint:8 qbint:10 45.384117 $W=0.08
Rk39 qbint:12 qbint:2 45.744701 $W=0.08
Rk40 qbint:10 qbint:12 0.123668 $W=0.09
Rk41 Mmn45:d qbint:12 75.000000 $W=0.1
Rk42 qbint:10 Mmp45:d 62.283680 $W=0.09
*
*|NET RNb 7.25704e-16
*|I (Mmn22:d Mmn22 d X 0 1.4300 0.5875)
*|I (Mmn51:g Mmn51 g X 0 2.5775 0.3975)
*|I (Mmn31:g Mmn31 g X 0 4.0375 0.5225)
*|I (Mmp22:d Mmp22 d X 0 1.4800 1.3075)
*|I (Mmp51:g Mmp51 g X 0 2.3625 1.0075)
*|I (Mmp31:g Mmp31 g X 0 4.2975 1.0375)
*|S (RNb:5 2.4000 1.2350)
*|S (RNb:7 1.4950 1.2650)
C48 Mmp31:g VSS 1.01541e-16
C49 Mmp51:g VSS 8.37342e-17
C50 Mmp22:d VSS 1.13791e-16
C51 Mmn31:g VSS 1.10615e-16
C52 Mmn51:g VSS 1.10249e-16
C53 Mmn22:d VSS 8.38923e-17
C54 RNb:5 VSS 1.21882e-16
Rl43 Mmn31:g Mmn51:g 666.873291 $W=0.039
Rl44 Mmp51:g RNb:5 76.925140 $W=0.039
Rl45 Mmn51:g Mmp51:g 230.334885 $W=0.039
Rl46 Mmp31:g Mmn31:g 211.104111 $W=0.039
Rk47 RNb:5 RNb:7 0.623336 $W=0.09
Rk48 RNb:7 Mmn22:d 75.444389 $W=0.1
Rk49 Mmp22:d RNb:7 62.000000 $W=0.09
*
*|NET n35 6.03639e-16
*|I (Mmn45:g Mmn45 g X 0 1.8575 0.3975)
*|I (Mmn53:d Mmn53 d X 0 3.4100 0.5075)
*|I (Mmp45:g Mmp45 g X 0 1.8575 1.0075)
*|I (Mmp53:d Mmp53 d X 0 3.2100 1.0075)
*|S (n35:1 1.9100 0.7750)
*|S (n35:2 1.8575 0.7750)
*|S (n35:6 3.2100 0.8950)
C55 Mmp53:d VSS 2.28326e-17
C56 Mmp45:g VSS 3.93764e-17
C57 Mmn53:d VSS 7.26316e-17
C58 Mmn45:g VSS 3.83736e-17
C59 n35:6 VSS 1.9431e-16
C60 n35:2 VSS 2.62199e-17
C61 n35:1 VSS 2.09895e-16
Rl50 n35:1 n35:2 45.521347 $W=0.094
Rl51 n35:2 Mmn45:g 113.175667 $W=0.039
Rl52 n35:2 Mmp45:g 43.944893 $W=0.039
Rk53 n35:6 n35:1 1.138218 $W=0.08
Rk54 Mmn53:d n35:6 75.415215 $W=0.08
Rk55 n35:6 Mmp53:d 62.028255 $W=0.0985
*
*|NET n42 1.80019e-16
*|I (Mmn50:d Mmn50 d X 0 2.1975 0.3975)
*|I (Mmn51:s Mmn51 s X 0 2.6775 0.3975)
C62 Mmn51:s VSS 9.49039e-17
C63 Mmn50:d VSS 8.51151e-17
Rk56 Mmn50:d Mmn51:s 150.421036 $W=0.1
*
*|NET n40 1.73555e-16
*|I (Mmn52:d Mmn52 d X 0 2.4550 0.3975)
*|I (Mmn53:s Mmn53 s X 0 3.0850 0.5075)
*|S (n40:3 2.9450 0.4950)
C64 Mmn53:s VSS 8.89366e-17
C65 Mmn52:d VSS 8.46181e-17
Rk57 Mmn52:d n40:3 75.353920 $W=0.1
Rk58 Mmn53:s n40:3 75.000000 $W=0.1
*
*|NET CKb 1.04465e-15
*|I (Mmn53:g Mmn53 g X 0 3.3075 0.5075)
*|I (Mmn26:g Mmn26 g X 0 5.3275 0.3375)
*|I (Mmn21:g Mmn21 g X 0 5.8275 0.3375)
*|I (Mmn20:d Mmn20 d X 0 6.1550 0.5875)
*|I (Mmp40:g Mmp40 g X 0 3.3125 1.0075)
*|I (Mmp36:g Mmp36 g X 0 5.1525 1.0375)
*|I (Mmp21:g Mmp21 g X 0 5.8275 1.0375)
*|I (Mmp20:d Mmp20 d X 0 6.1550 1.0325)
*|S (CKb:3 3.3850 1.3100)
*|S (CKb:6 5.1800 1.3100)
*|S (CKb:9 5.9550 1.2750)
*|S (CKb:11 6.1300 1.0800)
C66 Mmp20:d VSS 7.45906e-17
C67 Mmp21:g VSS 5.34076e-17
C68 Mmp36:g VSS 6.19313e-17
C69 Mmp40:g VSS 5.07044e-17
C70 Mmn20:d VSS 5.97622e-17
C71 Mmn21:g VSS 6.82964e-17
C72 Mmn26:g VSS 5.9027e-17
C73 Mmn53:g VSS 5.38311e-17
C74 CKb:3 VSS 2.00937e-16
C75 CKb:6 VSS 2.43118e-16
C76 CKb:9 VSS 1.1904e-16
Rl59 Mmp40:g CKb:3 120.531097 $W=0.039
Rl60 Mmn53:g Mmp40:g 121.524399 $W=0.039
Rl61 Mmp36:g CKb:6 95.691772 $W=0.039
Rl62 Mmn26:g Mmp36:g 243.468964 $W=0.039
Rl63 Mmp21:g CKb:9 111.820747 $W=0.039
Rl64 Mmp21:g Mmn21:g 200.000000 $W=0.039
Rk65 CKb:9 CKb:6 0.613599 $W=0.09
Rk66 CKb:6 CKb:3 1.332802 $W=0.09
Rk67 CKb:11 CKb:9 0.264152 $W=0.08
Rk68 CKb:11 Mmn20:d 75.388100 $W=0.08
Rk69 Mmp20:d CKb:11 62.000000 $W=0.085
*
*|NET mout 7.6969e-16
*|I (Mmn40:s Mmn40 s X 0 3.6050 0.5075)
*|I (Mmn31:d Mmn31 d X 0 4.2200 0.5225)
*|I (Mmn35:g Mmn35 g X 0 4.9225 0.3375)
*|I (Mmp40:s Mmp40 s X 0 3.5200 1.0075)
*|I (Mmp32:d Mmp32 d X 0 4.5175 1.0375)
*|I (Mmp35:g Mmp35 g X 0 4.9225 1.0375)
*|S (mout:2 4.8950 0.7050)
*|S (mout:5 4.7350 0.6700)
*|S (mout:7 4.5050 0.9900)
*|S (mout:9 3.6450 0.9900)
C77 Mmp35:g VSS 4.65146e-17
C78 Mmp32:d VSS 1.59861e-16
C79 Mmp40:s VSS 1.53963e-16
C80 Mmn35:g VSS 6.45046e-17
C81 Mmn31:d VSS 1.00865e-16
C82 Mmn40:s VSS 7.52772e-17
C83 mout:5 VSS 8.62345e-17
C84 mout:2 VSS 8.24702e-17
Rl70 mout:2 Mmn35:g 100.691772 $W=0.039
Rl71 Mmp35:g mout:2 73.768692 $W=0.039
Rk72 mout:5 mout:2 45.112576 $W=0.1
Rk73 mout:5 mout:7 0.384636 $W=0.08
Rk74 mout:7 mout:9 0.709095 $W=0.08
Rk75 mout:9 Mmn40:s 75.366478 $W=0.08
Rk76 Mmn31:d mout:5 75.559044 $W=0.08
Rk77 Mmp40:s mout:9 62.000000 $W=0.08
Rk78 Mmp32:d mout:7 62.000000 $W=0.08
*
*|NET CKbb 1.28143e-15
*|I (Mmn40:g Mmn40 g X 0 3.5125 0.5075)
*|I (Mmn36:g Mmn36 g X 0 5.0275 0.3375)
*|I (Mmn21:d Mmn21 d X 0 5.9200 0.3375)
*|I (Mmp53:g Mmp53 g X 0 3.1075 1.0075)
*|I (Mmp26:g Mmp26 g X 0 5.4825 1.0375)
*|I (Mmp21:d Mmp21 d X 0 5.9200 1.0375)
*|S (CKbb:2 3.1450 1.2350)
*|S (CKbb:4 3.4550 0.8000)
*|S (CKbb:6 5.0650 0.6900)
*|S (CKbb:8 5.4450 0.8000)
*|S (CKbb:11 5.9300 1.0850)
*|S (CKbb:12 5.4450 1.0550)
*|S (CKbb:13 5.0650 1.1500)
*|S (CKbb:14 3.4550 1.1500)
C85 Mmp21:d VSS 1.14178e-16
C86 Mmp26:g VSS 4.89532e-17
C87 Mmp53:g VSS 4.90962e-17
C88 Mmn21:d VSS 7.30447e-17
C89 Mmn36:g VSS 5.63352e-17
C90 Mmn40:g VSS 4.31034e-17
C91 CKbb:14 VSS 2.16674e-16
C92 CKbb:13 VSS 2.33319e-16
C93 CKbb:12 VSS 7.79022e-17
C94 CKbb:2 VSS 6.44215e-17
C95 CKbb:4 VSS 1.08133e-16
C96 CKbb:6 VSS 1.19791e-16
C97 CKbb:8 VSS 7.64812e-17
Rl79 Mmn40:g CKbb:4 121.388733 $W=0.039
Rl80 Mmn36:g CKbb:6 138.463593 $W=0.039
Rl81 Mmp53:g CKbb:2 76.925140 $W=0.039
Rl82 Mmp26:g CKbb:8 80.771286 $W=0.039
Rk83 CKbb:12 CKbb:8 0.182485 $W=0.0985
Rk84 CKbb:11 CKbb:12 0.341000 $W=0.08
Rk85 CKbb:13 CKbb:6 0.323325 $W=0.08
Rk86 CKbb:12 CKbb:13 0.374294 $W=0.08
Rk87 CKbb:14 CKbb:4 0.247486 $W=0.08
Rk88 CKbb:14 CKbb:2 0.242232 $W=0.09
Rk89 CKbb:13 CKbb:14 1.322117 $W=0.08
Rk90 Mmn21:d CKbb:11 75.569595 $W=0.08
Rk91 Mmp21:d CKbb:11 62.000000 $W=0.08
*
*|NET net426 1.87316e-16
*|I (Mmn31:s Mmn31 s X 0 3.9450 0.5225)
*|I (Mmn32:s Mmn32 s X 0 4.5175 0.5225)
C98 Mmn32:s VSS 1.00218e-16
C99 Mmn31:s VSS 8.70976e-17
Rk92 Mmn32:s Mmn31:s 150.634216 $W=0.08
*
*|NET n20 4.14341e-16
*|I (Mmn32:g Mmn32 g X 0 4.4025 0.5225)
*|I (Mmn36:d Mmn36 d X 0 5.1775 0.3375)
*|I (Mmp32:g Mmp32 g X 0 4.4025 1.0375)
*|I (Mmp36:d Mmp36 d X 0 5.3175 1.0375)
*|S (n20:1 4.4900 0.3200)
*|S (n20:5 5.2250 0.3500)
C100 Mmp36:d VSS 9.66039e-17
C101 Mmp32:g VSS 9.08146e-17
C102 Mmn36:d VSS 8.0064e-17
C103 Mmn32:g VSS 3.72801e-17
C104 n20:1 VSS 1.09579e-16
Rl93 n20:1 Mmn32:g 96.436134 $W=0.039
Rl94 Mmn32:g Mmp32:g 128.846161 $W=0.039
Rk95 n20:1 n20:5 0.510660 $W=0.09
Rk96 Mmn36:d n20:5 75.000000 $W=0.09
Rk97 n20:5 Mmp36:d 62.467911 $W=0.08
*
*|NET n30 2.7422e-18
*|I (Mmn35:d Mmn35 d X 0 4.9750 0.3375)
*|I (Mmn36:s Mmn36 s X 0 4.9750 0.3375)
C105 Mmn35:d VSS 2.7422e-18
Rmw98 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n21 0
*|I (Mmn26:s Mmn26 s X 0 5.4750 0.3375)
*|I (Mmn25:d Mmn25 d X 0 5.4750 0.3375)
Rmw99 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 2.34492e-16
*|I (Mmp50:d Mmp50 d X 0 2.1550 1.0075)
*|I (Mmp53:s Mmp53 s X 0 3.0150 1.0075)
C106 Mmp53:s VSS 9.80896e-17
C107 Mmp50:d VSS 1.36403e-16
Rk100 Mmp53:s Mmp50:d 124.510406 $W=0.1
*
*|NET n43 1.57959e-18
*|I (Mmp52:s Mmp52 s X 0 2.3100 1.0075)
*|I (Mmp51:d Mmp51 d X 0 2.3100 1.0075)
C108 Mmp52:s VSS 1.57959e-18
Rmw101 Mmp51:d Mmp52:s 0.001000 $W=1
*
*|NET net402 1.4968e-18
*|I (Mmp31:d Mmp31 d X 0 4.3500 1.0375)
*|I (Mmp32:s Mmp32 s X 0 4.3500 1.0375)
C109 Mmp31:d VSS 1.4968e-18
Rmw102 Mmp32:s Mmp31:d 0.001000 $W=1
*
*|NET n31 5.50675e-18
*|I (Mmp35:d Mmp35 d X 0 5.0375 1.0375)
*|I (Mmp36:s Mmp36 s X 0 5.0375 1.0375)
C110 Mmp35:d VSS 5.50675e-18
Rmw103 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET n22 3.16327e-18
*|I (Mmp26:s Mmp26 s X 0 5.5525 1.0375)
*|I (Mmp25:d Mmp25 d X 0 5.5525 1.0375)
C111 Mmp26:s VSS 3.16327e-18
Rmw104 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02682P	PD=0.57U	PS=0.66U
+ fw=1.45e-07 sa=1.4e-07 sb=3.7e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02682P	PD=0.57U	PS=0.66U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02392P	PD=0.57U	PS=0.62U
+ fw=1.45e-07 sa=1.4e-07 sb=4.6e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03625P	AS=0.02392P	PD=0.79U	PS=0.62U
+ fw=1.45e-07 sa=3.5e-07 sb=2.5e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02103P	AS=0.0232P	PD=0.58U	PS=0.61U
+ fw=1.45e-07 sa=1.45e-07 sb=8.75e-07 sca=8.55924 scb=0.0065649 scc=0.000116351
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03263P	AS=0.0232P	PD=0.74U	PS=0.61U
+ fw=1.45e-07 sa=3.5e-07 sb=6.7e-07 sca=8.55924 scb=0.0065649 scc=0.000116351
Mmn52	Mmn52:d	Mmn52:g	Mmn50:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.029P	AS=0.03263P	PD=0.69U	PS=0.74U
+ fw=1.45e-07 sa=6.2e-07 sb=4e-07 sca=8.55924 scb=0.0065649 scc=0.000116351
Mmn51	Mmn52:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.029P	AS=0.02248P	PD=0.69U	PS=0.6U
+ fw=1.45e-07 sa=8.65e-07 sb=1.55e-07 sca=8.55924 scb=0.0065649 scc=0.000116351
Mmn53	Mmn53:d	Mmn53:g	Mmn53:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.058P	PD=0.61U	PS=1.09U
+ fw=1.45e-07 sa=4e-07 sb=3.45e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn40	Mmn53:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=6.05e-07 sb=1.4e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0464P	AS=0.0203P	PD=0.93U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=6.95e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn32	Mmn31:d	Mmn32:g	Mmn32:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0464P	AS=0.02683P	PD=0.93U	PS=0.66U
+ fw=1.45e-07 sa=5.05e-07 sb=3.3e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn30	Mmn32:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02683P	AS=0.06698P	PD=0.66U	PS=1.52U
+ fw=1.45e-07 sa=7.35e-07 sb=1e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.06698P	PD=0.41U	PS=1.52U
+ fw=1.45e-07 sa=1.95e-07 sb=1.045e-06 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03698P	AS=0.0087P	PD=0.8U	PS=0.41U
+ fw=1.45e-07 sa=3e-07 sb=9.4e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn26	Mmn36:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03698P	AS=0.03625P	PD=0.8U	PS=0.79U
+ fw=1.45e-07 sa=6e-07 sb=6.4e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03625P	AS=0.0232P	PD=0.79U	PS=0.61U
+ fw=1.45e-07 sa=8.95e-07 sb=3.45e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.1e-06 sb=1.4e-07 sca=7.18188 scb=0.00417289 scc=4.04165e-05
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02465P	AS=0.02538P	PD=0.63U	PS=0.64U
+ fw=1.45e-07 sa=1.7e-07 sb=1.75e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0491P	PD=0.71U	PS=0.9U
+ fw=2.15e-07 sa=1.4e-07 sb=4.05e-07 sca=49.8399 scb=0.0334143 scc=0.00594375
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0491P	PD=0.71U	PS=0.9U
+ fw=2.15e-07 sa=4.05e-07 sb=1.4e-07 sca=46.8055 scb=0.0288702 scc=0.00588464
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.043P	AS=0.0344P	PD=0.83U	PS=0.75U
+ fw=2.15e-07 sa=2e-07 sb=4.48023e-07 sca=10.1832 scb=0.00742094 scc=7.76436e-05
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05225P	AS=0.0344P	PD=0.93U	PS=0.75U
+ fw=2.15e-07 sa=4.05e-07 sb=2.43023e-07 sca=10.1832 scb=0.00742094 scc=7.76436e-05
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0269P	AS=0.0664P	PD=0.72U	PS=1.9U
+ fw=2.15e-07 sa=1.25116e-07 sb=7.7e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0664P	PD=0.75U	PS=1.9U
+ fw=2.15e-07 sa=3.20116e-07 sb=5.75e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp52	Mmp50:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0129P	PD=0.75U	PS=0.55U
+ fw=2.15e-07 sa=5.25116e-07 sb=3.7e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.08217P	PD=0.55U	PS=1.38U
+ fw=2.15e-07 sa=6.30116e-07 sb=2.65e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp53	Mmp53:d	Mmp53:g	Mmp53:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.0301P	PD=0.75U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=5.75e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp40	Mmp53:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0344P	AS=0.07955P	PD=0.75U	PS=1.17U
+ fw=2.15e-07 sa=3.45e-07 sb=3.7e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0129P	AS=0.09475P	PD=0.55U	PS=1.74U
+ fw=2.15e-07 sa=1.7e-07 sb=1.67e-06 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp32	Mmp32:d	Mmp32:g	Mmp32:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03977P	AS=0.0129P	PD=0.8U	PS=0.55U
+ fw=2.15e-07 sa=2.75e-07 sb=1.565e-06 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp30	Mmp32:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03977P	AS=0.11088P	PD=0.8U	PS=1.89U
+ fw=2.15e-07 sa=5.05e-07 sb=1.335e-06 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03977P	AS=0.11088P	PD=0.8U	PS=1.89U
+ fw=2.15e-07 sa=7.95e-07 sb=1.045e-06 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06127P	AS=0.03977P	PD=1U	PS=0.8U
+ fw=2.15e-07 sa=1.025e-06 sb=8.15e-07 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp26	Mmp36:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.06127P	AS=0.02042P	PD=1U	PS=0.62U
+ fw=2.15e-07 sa=1.355e-06 sb=4.85e-07 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02042P	AS=0.06705P	PD=0.62U	PS=1.86U
+ fw=2.15e-07 sa=1.495e-06 sb=3.45e-07 sca=31.508 scb=0.0252524 scc=0.00399199
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.06705P	PD=0.71U	PS=1.86U
+ fw=2.15e-07 sa=1.7e-06 sb=1.4e-07 sca=31.995 scb=0.0254181 scc=0.00399203
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03655P	AS=0.05267P	PD=0.77U	PS=0.92U
+ fw=2.15e-07 sa=1.7e-07 sb=2.45e-07 sca=38.6695 scb=0.0332521 scc=0.00441508
.ENDS
.END
